US07772238B2
Di-tert-butyl [4-(1,3-dioxolan-2-yl)-3-fluorophenyl](methyl)malonate.
Di-tert-butyl [4-(1,3-dioxolan-2-yl)-3-fluorophenyl]malonate (2.45 g, 6.41 mmol), iodomethane (0.80 mL, 12.85 mmol) and potassium carbonate (1.78 g, 12.9 mmol) were suspended in DMF (10 mL) and heated at 70° C. for 3 hours in a sealed tube. A further portion of iodomethane was added (0.60 mL, 9.64 mmol) and heating continued at 75° C. for 3 hours. Room temperature was attained, H2O (150 mL) was added and the products extracted into Et2O (2×100 mL). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. Purification of the residue by MPLC gave 0.91 g of clean product (orange oil, 36%). 1H NMR (CDCl3) δ 7.47 (t, J=8.1 Hz, 1H), 7.19 (dd, J=8.1, 1.8 Hz, 1H), 7.17 (dd, J=12.0, 1.8 Hz, 1H), 6.07 (s, 1H), 4.13 (m, 2H), 4.03 (m, 2H), 1.74 (s, 3H), 1.45 (s, 18H).

reactant | Di-tert-butyl [4-(1,3-dioxolan-2-yl)-3-fluorophenyl]malonate | 6.41 mmol, 2.45 g | O1C(OCC1)C1=C(C=C(C=C1)C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)F | C20H27FO6
reactant | iodomethane | 12.85 mmol, 0.80 mL | IC | CH3I
reactant | potassium carbonate | 12.9 mmol, 1.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | H2O | 150 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Di-tert-butyl [4-(1,3-dioxolan-2-yl)-3-fluorophenyl](methyl)malonate | 0.91 g, 36% | O1C(OCC1)C1=C(C=C(C=C1)C(C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)C)F | C21H29FO6
